US04204991
146 g of t-butoxycarbonyl proline are dissolved in 1500 ml of methylene chloride. 150 ml of N-methylmorpholine are added to the solution. The solution is cooled to -70° C. 89 ml of isobutylchloroformate are added. The reaction mixture is warmed to -15° C. and then cooled to -70° C. 197 g of methyl S-benzylpenicillaminate hydrochloride are added to the reaction mixture. The reaction mixture is stirred for sixteen hours at room temperature. The reaction mixture is extracted three times with 1.0 M potassium bisulfate and once with brine. The methylene chloride solution is dried over anhydrous sodium sulfate, filtered and stripped of solvent. The residue is dissolved in a minimum of diethyl ether. The ether solution is added to cold rapidly stirring hexane. The white precipitate is filtered and dried to afford the product, methyl t-butoxycarbonylprolylpenicillaminate.

reactant | t-butoxycarbonyl proline | 146 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | N-methylmorpholine | 150 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 89 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | methyl S-benzylpenicillaminate hydrochloride | 197 g | Cl.C(C1=CC=CC=C1)SC([C@H](N)C(=O)OC)(C)C
solvent | methylene chloride | 1500 ml | C(Cl)Cl | CH2Cl2
product | methyl t-butoxycarbonylprolylpenicillaminate | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N[C@@H](C(C)(C)S)C(=O)OC)CCC1 | C16H28N2O5S
